US08648068B2
VI.2: (R)-4-fluoro-2-(tetrahydrofuran-3-yloxy)aniline
To a solution of (R)-3-(5-fluoro-2-nitrophenoxy)tetrahydrofuran (1.8 g) in MeOH (60.0 ml) was added Ra/Ni (200.0 mg), the mixture hydrogenated at room temperature. The catalyst was filtered off and the filtrate was concentrated.

reactant | (R)-3-(5-fluoro-2-nitrophenoxy)tetrahydrofuran | 1.8 g | FC=1C=CC(=C(O[C@H]2COCC2)C1)[N+](=O)[O-] | C10H10FNO4
solvent | MeOH | 60.0 ml | CO | CH4O
catalyst | Ni | 200.0 mg | [Ni] | Ni
product | (R)-4-fluoro-2-(tetrahydrofuran-3-yloxy)aniline | FC1=CC(=C(N)C=C1)O[C@H]1COCC1 | C10H12FNO2
